.subckt fsdpqb_f_x1 QN CK D SI SE VDD VSS
XFSDPQB_sei_P0 FSDPQB_se_b SE VDD VDD pmos w=2u l=100n
XFSDPQB_sei_N0 FSDPQB_se_b SE VSS VSS nmos w=1u l=100n
XFSDPQB_smx_MP0 FSDPQB_din SE D VDD pmos w=2u l=100n
XFSDPQB_smx_MN0 FSDPQB_din FSDPQB_se_b D VSS nmos w=1u l=100n
XFSDPQB_smx_MP1 FSDPQB_din FSDPQB_se_b SI VDD pmos w=2u l=100n
XFSDPQB_smx_MN1 FSDPQB_din SE SI VSS nmos w=1u l=100n
XFSDPQB_ck_P0 FSDPQB_ck_b CK VDD VDD pmos w=2u l=100n
XFSDPQB_ck_N0 FSDPQB_ck_b CK VSS VSS nmos w=1u l=100n
XFSDPQB_m_in_P FSDPQB_m_n1 CK FSDPQB_din VDD pmos w=2u l=100n
XFSDPQB_m_in_N FSDPQB_m_n1 FSDPQB_ck_b FSDPQB_din VSS nmos w=1u l=100n
XFSDPQB_m_i1_P0 FSDPQB_m_n2 FSDPQB_m_n1 VDD VDD pmos w=2u l=100n
XFSDPQB_m_i1_N0 FSDPQB_m_n2 FSDPQB_m_n1 VSS VSS nmos w=1u l=100n
XFSDPQB_m_i2_P0 FSDPQB_m_n1 FSDPQB_m_n2 VDD VDD pmos w=2u l=100n
XFSDPQB_m_i2_N0 FSDPQB_m_n1 FSDPQB_m_n2 VSS VSS nmos w=1u l=100n
XFSDPQB_m_fb_P FSDPQB_m_n1 FSDPQB_ck_b FSDPQB_m_n2 VDD pmos w=2u l=100n
XFSDPQB_m_fb_N FSDPQB_m_n1 CK FSDPQB_m_n2 VSS nmos w=1u l=100n
XFSDPQB_m_o_P0 FSDPQB_qm FSDPQB_m_n2 VDD VDD pmos w=2u l=100n
XFSDPQB_m_o_N0 FSDPQB_qm FSDPQB_m_n2 VSS VSS nmos w=1u l=100n
XFSDPQB_s_in_P FSDPQB_s_n1 FSDPQB_ck_b FSDPQB_qm VDD pmos w=2u l=100n
XFSDPQB_s_in_N FSDPQB_s_n1 CK FSDPQB_qm VSS nmos w=1u l=100n
XFSDPQB_s_i1_P0 FSDPQB_s_n2 FSDPQB_s_n1 VDD VDD pmos w=2u l=100n
XFSDPQB_s_i1_N0 FSDPQB_s_n2 FSDPQB_s_n1 VSS VSS nmos w=1u l=100n
XFSDPQB_s_i2_P0 FSDPQB_s_n1 FSDPQB_s_n2 VDD VDD pmos w=2u l=100n
XFSDPQB_s_i2_N0 FSDPQB_s_n1 FSDPQB_s_n2 VSS VSS nmos w=1u l=100n
XFSDPQB_s_fb_P FSDPQB_s_n1 CK FSDPQB_s_n2 VDD pmos w=2u l=100n
XFSDPQB_s_fb_N FSDPQB_s_n1 FSDPQB_ck_b FSDPQB_s_n2 VSS nmos w=1u l=100n
XFSDPQB_s_o_P0 q_int FSDPQB_s_n2 VDD VDD pmos w=2u l=100n
XFSDPQB_s_o_N0 q_int FSDPQB_s_n2 VSS VSS nmos w=1u l=100n
XFSDPQB_qn_P0 QN q_int VDD VDD pmos w=2u l=100n
XFSDPQB_qn_N0 QN q_int VSS VSS nmos w=1u l=100n
.ends fsdpqb_f_x1
